US08809369B2
A mixture of 2-(5-bromo-pyridin-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.39 g, 1.0 mmol), morpholine (0.35 g, 4 mmol), copper (I) iodide (114 mg, 0.6 mmol), N,N-dimethyl glycine hydrochloride (112 mg, 0.8 mmol) and potassium carbonate (0.42 g, 3 mmol) in dimethylsulfoxide (10 mL) was heated for 12 h at 120° C. After colling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (30% ethyl acetate/hexanes) to afford 4,4-dimethyl-2-(5-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.20 g, 51%) as a white solid: MS (ESI) M+1=396.3.

reactant | 2-(5-bromo-pyridin-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 1.0 mmol, 0.39 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)Br)(C)C | C19H21BrN2O2
reactant | morpholine | 4 mmol, 0.35 g | N1CCOCC1 | C4H9NO
reactant | N,N-dimethyl glycine hydrochloride | 0.8 mmol, 112 mg | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 3 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.6 mmol, 114 mg | [Cu]I
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4,4-dimethyl-2-(5-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 0.20 g, 51% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)N1CCOCC1)(C)C | C23H29N3O3
